US04337260
A mixture of 5 g of 3-chloro-5-(3-methylsulfonyloxypropyl)-10,11-dihydro-5H-dibenz[b,f]azepine, 4 g of 1,2,3,5,6,7,8,8a-octahydro-2-oxoimidazo[1,2-a]pyridine-3-spiro-4'-piperidine, 4 g of potassium carbonate and 4 g of water in 40 ml of ethanol is stirred at 60° C. for 4 hours. The upper layer is separated and concentrated, and the residue is dissolved in 100 ml of toluene. The toluene solution is washed with water, dried, concentrated to about 15 ml and allowed to stand. The precipitated crystals are collected by filtration and recrystallized from ethanol. The crystals thus obtained are dissolved in methanol, and methanolic hydrochloric acid is added to give 1'-[3-(3-chloro-10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)-propyl]-1,2,3,5,6,7,8,8a-octahydro-2-oxo-imidazo[1,2-a]pyridine-3-spiro-4'-piperidine dihydrochloride monohydrate, m.p. 261° C. This product is dried at 120° C. under reduced pressure for 4 hours to give the anhydrous product as white crystals, m.p. 271° C., 4.3 g.

reactant | 3-chloro-5-(3-methylsulfonyloxypropyl)-10,11-dihydro-5H-dibenz[b,f]azepine | 5 g | ClC=1C=CC2=C(N(C3=C(CC2)C=CC=C3)CCCOS(=O)(=O)C)C1 | C18H20ClNO3S
reactant | 1,2,3,5,6,7,8,8a-octahydro-2-oxoimidazo[1,2-a]pyridine-3-spiro-4'-piperidine | 4 g | O=C1NC2N(CCCC2)C12CCNCC2 | C11H19N3O
reactant | potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | water | 4 g | O | H2O
product | 1'-[3-(3-chloro-10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)-propyl]-1,2,3,5,6,7,8,8a-octahydro-2-oxo-imidazo[1,2-a]pyridine-3-spiro-4'-piperidine dihydrochloride monohydrate | O.Cl.Cl.ClC=1C=CC2=C(N(C3=C(CC2)C=CC=C3)CCCN3CCC2(CC3)C(NC3N2CCCC3)=O)C1 | InChI=1S/C28H35ClN4O.2ClH.H2O/c29-23-12-11-22-10-9-21-6-1-2-7-24(21)32(25(22)20-23)16-5-15-31-18-13-28(14-19-31)27(34)30-26-8-3-4-17-33(26)28;;;/h1-2,6-7,11-12,20,26H,3-5,8-10,13-19H2,(H,30,34);2*1H;1H2
